US07319108B2
Dimethyl-(1-{4-[5-(2-phenoxyethylsulfanylmethyl)-[1,3,4]oxadiazol-2-yl]phenyl}-pyrrolidin-3-yl)amine
4-(3-Dimethylaminopyrrolidin-1-yl)benzohydrazide was reacted with (2-phenoxy-ethylsulfanyl)acetic acid by Method A. The product with the molecular weight of 424.57 (C23H28N4O2S) was obtained in this way; MS (ESI): 425 (M+H+).

reactant | 4-(3-Dimethylaminopyrrolidin-1-yl)benzohydrazide | CN(C1CN(CC1)C1=CC=C(C(=O)NN)C=C1)C | C13H20N4O
reactant | (2-phenoxy-ethylsulfanyl)acetic acid | O(C1=CC=CC=C1)CCSCC(=O)O | C10H12O3S
product | Dimethyl-(1-{4-[5-(2-phenoxyethylsulfanylmethyl)-[1,3,4]oxadiazol-2-yl]phenyl}-pyrrolidin-3-yl)amine | CN(C1CN(CC1)C1=CC=C(C=C1)C=1OC(=NN1)CSCCOC1=CC=CC=C1)C | C23H28N4O2S
